US06518423B1
8-(Pyrazol-4-yl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
5 ml of a solution of 130 mg of 8-(3-trimethylsilyl-pyrazol-4-yl)-10-methoxymethyl-10H-pyrazino(2,3-b][1,4]-benzothiazine in tetrahydrofuran was stirred at room temperature and 1.1 ml of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran was added thereto. After stirring for 5 minutes, the reaction mixture was distributed into ethyl acetate and 1 N hydrochloric acid. The organic layer was extracted, washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 42 mg of the title compound as yellow crystals.

reactant | 8-(3-trimethylsilyl-pyrazol-4-yl)-10-methoxymethyl-10H-pyrazino(2,3-b][1,4]-benzothiazine | 130 mg | C[Si](C1=NNC=C1C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1)(C)C | C18H21N5OSSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-(Pyrazol-4-yl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 42 mg | N1N=CC(=C1)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C15H13N5OS
